US04791122
4-(2-Benzyloxyphenyl)-1,4-dihydro-2,6-dimethyl-3-nitro-5-phenylpyridine
3 g (10 mmol) of 2-benzyloxybenzylidenenitroacetone in 15 ml of ethanol are heated under reflux with 1.34 g (10 mmol) of phenylacetone and 770 mg (10 mmol) of ammonium acetate for 1.5 hours. The mixture is cooled and concentrated. The residue from evaporation is taken up in ethyl acetate, and the solution is washed with water, dried and concentrated. The resulting residue from evaporation is purified through a column of volume 150 ml, stationary phase silica gel and mobile phase toluene/ethyl acetate 10:1. The pure fractions are combined, concentrated and crystallized using ether. 0.2 g of yellow crystals, of melting point 189° C., is obtained.

reactant | 2-benzyloxybenzylidenenitroacetone | 10 mmol, 3 g | C(C1=CC=CC=C1)OC1=C(C=C(C(C)=O)[N+](=O)[O-])C=CC=C1 | C17H15NO4
reactant | phenylacetone | 10 mmol, 1.34 g | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | ammonium acetate | 10 mmol, 770 mg | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-(2-Benzyloxyphenyl)-1,4-dihydro-2,6-dimethyl-3-nitro-5-phenylpyridine | 0.2 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1C(=C(NC(=C1C1=CC=CC=C1)C)C)[N+](=O)[O-] | C26H24N2O3
